US07411072B2
3-(2-Chloro-9,10dihydro-1-thia-benzo[f]azulen-4-ylidenemethyl)-phenylamine
Add 2.2 equiv of n-BuLi-hexanes dropwise to a solution of 3-(9,10-dihydro-1-thia-benzo[f]azulen-4-ylidenemethyl)-phenylamine in THF (0.1 M) at 0° C. under Ar. Stir the resultant dark solution for 1 h before adding 2.5 equiv of hexachloroethane in THF. Stir for 2 h, quench with excess water, and acidify to neutral pH. Extract the aqueous layer with diethyl ether (3×) and then dry (MgSO4) and concentrate the combined organic layers under reduced pressure. Purify the crude residue by column chromatography (0% to 2% to 20% EtOAc:hexanes) to give title compound as an oil (22%) along with recovered starting material: HPLC (ISO80-20A) t=1.903 (90%). MS (APCI): 338 (M+1).

reactant | 3-(9,10-dihydro-1-thia-benzo[f]azulen-4-ylidenemethyl)-phenylamine | S1C=CC=2C(C3=C(CCC12)C=CC=C3)=CC=3C=C(C=CC3)N | C20H17NS
reactant | hexachloroethane | 2.5 equiv | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
product | 3-(2-Chloro-9,10dihydro-1-thia-benzo[f]azulen-4-ylidenemethyl)-phenylamine | 22% | ClC=1SC=2CCC3=C(C(C2C1)=CC=1C=C(C=CC1)N)C=CC=C3 | C20H16ClNS
